### PR TITLE
Erdős Problem 850

### LINKED ISSUE #976: Erdős Problem 850
### What is the conjecture

https://www.erdosproblems.com/850

  Can there exist two distinct integers $x$ and $y$ such that $x,y$ have the same prime factors, $x+1,y+1$ have the same prime factors, and $x+2,y+2$ also have the same prime factors?

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by TanteMariane**
fixes [#976](https://github.com/google-deepmind/formal-conjectures/issues/976)

### CODE REVIEW

File: FormalConjectures/ErdosProblems/850.lean [hunk 1]
```diff
@@ -0,0 +1,36 @@
...
+/--
+Can there exist two distinct integers x and y such that x,y have the same prime factors, x+1,y+1
+have the same prime factors, and x+2,y+2 also have the same prime factors?
+-/
+@[category research open, AMS 11]
+theorem erdos_850 :
+    ∃ x y : ℕ, x ≠ y ∧ (Nat.primeFactors x = Nat.primeFactors y)
+    ∧ (Nat.primeFactors (x + 1) = Nat.primeFactors (y + 1))
+    ∧ (Nat.primeFactors (x + 2) = Nat.primeFactors (y + 2)) := by
+    sorry
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/850.lean:35]: Let's use `↔ answer(sorry)` since this is phrased as a question!
```suggestion
theorem erdos_850 :
    (∃ x y : ℕ, x ≠ y ∧ x.primeFactors = y.primeFactors
      ∧ (x + 1).primeFactors = (y + 1).primeFactors
      ∧ (x + 2).primeFactors = (y + 2).primeFactors) ↔ answer(sorry) := by
    sorry
```

**Review by Paul-Lez — COMMENTED** [review]
Thanks for the PR! If you have appetite for writing a little more code, it could be nice to add some of the related problems mentioned on the problem page.

**Comment by mo271** [comment]
> Thanks for the PR! If you have appetite for writing a little more code, it could be nice to add some of the related problems mentioned on the problem page.

or at least let's add a TODO

**Comment by TanteMariane** [comment]
sorry, but what kind of related problems do you mean? Do you mean Erdős problem no. 677 ? Or do you mean the one whether there are more examples for x, y, x+1, y+1 ?

**Comment by mo271** [comment]
> sorry, but what kind of related problems do you mean? Do you mean Erdős problem no. 677 ? Or do you mean the one whether there are more examples for x, y, x+1, y+1 ?

We usually also formalize all the additional statements below the main statement in the box

**Comment by TanteMariane** [comment]
The only "relevant" statement I see there is that an explicit form of the ABC conjecture implies the Erdos Problem 850.
With explicit form they mean Conjecture 9.1 [in this paper](https://arxiv.org/pdf/1612.05438#page=14&zoom=100,169,586), which isn't formalized in FormalConjectures/Wikipedia/ABC.lean yet.

**Comment by mo271** [comment]
by "all" I meant each of the statements, when it is possible to formalise it. 

For example "For just $x,y$ and $x+1,y+1$ one can take $x=2(2^r-1)$ and $y = x(x+2).$"
Could be formalised as

```
theorem erdos_850.variants.add_one_only : ∀ r ≥ 1,
  letI x := 2 * (2 ^ r - 1);
  letI y := x * (x + 2);
    x ≠ y ∧
    x.primeFactors = y.primeFactors ∧
    (x + 1).primeFactors = (y + 1).primeFactors := by
  intro r hr
  norm_num +decide only [Nat.primeFactors,Nat.primeFactorsList]
  refine ⟨?_, ?_, ?_⟩
  · exact (lt_mul_right (by field_simp only [tsub_pos_of_lt, mul_pos, one_lt_pow']) (by omega)).ne
  · simp only [Nat.toFinset_factors]
    norm_num [← (2).mul_succ, Finset.ext_iff, Nat.sub_ne_zero_of_lt _, mt hr.trans_eq,
      Nat.primeFactors_mul, Nat.primeFactors_pow, Nat.succ_le_iff]
  · norm_num [show (2 * _) * (2 * _+ 2) + 1 = (2 * _ + 1) * (2 * _ + 1) by ring,
      ←sq,Nat.primeFactors_pow]
```
or more concrete only for one $r$.
```
@[category research solved, AMS 11]
theorem erdos_850.variants.add_one_only : ∃ x y : ℕ, x ≠ y ∧ x.primeFactors = y.primeFactors
      ∧ (x + 1).primeFactors = (y + 1).primeFactors := by
  let r := 1
  let x :=  2 * (2 ^ r - 1)
  use x, x * (x + 2)
  unfold x r
  norm_num +decide only [Nat.primeFactors,Nat.primeFactorsList]
  ```
  or something like this. 
  But it is fine just to leave a `-- TODO`.

File: FormalConjectures/ErdosProblems/850.lean [hunk 2]
```diff
@@ -0,0 +1,39 @@
...
+/-!
+# Erdős Problem 850
+*Reference:* [erdosproblems.com/850](https://www.erdosproblems.com/850)
+-/
+
+namespace Erdos850
+
+/--
+Can there exist two distinct integers x and y such that x,y have the same prime factors, x+1,y+1
+have the same prime factors, and x+2,y+2 also have the same prime factors?
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/850.lean:28]:
```suggestion
Can there exist two distinct integers $x$ and $y$ such that $x, y$ have the same prime factors, $x+1$,$y+1$
have the same prime factors, and $x+2$,$y+2$ also have the same prime factors?
```

**Review by mo271 — APPROVED** [review]
Thanks, looks good to me (after using LaTeX markdown for the doc comment.)

File: FormalConjectures/ErdosProblems/850.lean (hunk 2 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/850.lean:28]: fixed in #1275
